US08071592B2
(b) Cis-phenylmethyl (3RS,5RS)-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-5-(methyloxy)-1-piperidinecarboxylate
To cis-phenylmethyl (3RS,5SR)-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-5-hydroxy-1-piperidinecarboxylate (380 mg, 0.96 mmol) in 5 mL of CH2Cl2 was added iodomethane (1 mL, 16.1 mmol) and Ag2O (1.15 g, 5.0 mmol). The reaction was allowed to stir at room temperature under nitrogen for 48 h. The reaction mixture was filtered through a pad of Celite® which was washed with 25 mL CH2Cl2, and concentrated under reduced pressure. The crude residue was purified by chromatography on silica gel using a 10-100% EtOAc/hexanes gradient to provide the desired compound (210 mg; 53%) as a colorless oil.

reactant | cis-phenylmethyl (3RS,5SR)-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-5-hydroxy-1-piperidinecarboxylate | 0.96 mmol, 380 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H]1CN(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C22H22N2O5
reactant | iodomethane | 16.1 mmol, 1 mL | IC | CH3I
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Cis-phenylmethyl (3RS,5RS)-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-5-(methyloxy)-1-piperidinecarboxylate | 210 mg, 53% | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H]1CN(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1 | C23H24N2O5
